US04232039
(e) 4-(5-Chloro-4-cyclohexyl-2-methoxyphenyl)-butan-1-ol
4 g of LiAlH4 are added in portions at 0° with stirring, and in an inert gas atmosphere, to 8.6 g of 4-(5-chloro-4-cyclohexyl-2-methoxyphenyl)-butyric acid methylester in 300 ml of anhydrous tetrahydrofuran. After 24 hours at 20°, the mixture is poured onto icecold NH4CL solution. The mixture is then acidified to pH=3 and extracted three times with ethyl acetate. The organic phases are washed once with water, dried over Na2SO4 and concentrated. The residue is distilled at 170°/0.5 mm.

reactant | LiAlH4 | 4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(5-chloro-4-cyclohexyl-2-methoxyphenyl)-butyric acid methylester | 8.6 g | COC(CCCC1=C(C=C(C(=C1)Cl)C1CCCCC1)OC)=O | C18H25ClO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-(5-Chloro-4-cyclohexyl-2-methoxyphenyl)-butan-1-ol | ClC=1C(=CC(=C(C1)CCCCO)OC)C1CCCCC1 | C17H25ClO2
